* E:\Github\STEVEannouncer\Spice\Buttons.asc
V1 N002 0 5
R1 N002 tblogic 330k
R2 tblogic 0 4Meg
C1 tblogic 0 100n
S1 0 N003 tb 0 Myswitch
R3 N003 tblogic 20k
V2 mute 0 PULSE(0 1 250m 1p 1p 250m 500m)
V3 N004 0 5
R4 N004 mutelogic 330k
R5 mutelogic 0 4Meg
C2 mutelogic 0 100n
S2 0 N001 mute 0 Myswitch
V4 tb 0 PULSE(0 1 125m 1p 1p 125m 250m)
R7 mutelogic N001 20k
D1 mutelogic tblogic BAT54
V5 logiclow 0 .8
V6 logichigh 0 1.4
.model D D
.lib C:\Users\steph\AppData\Local\LTspice\lib\cmp\standard.dio
.model MySwitch SW(Ron=1m Roff=1Gig Vt=.5)
.tran 1
.backanno
.end
