* E:\Github\STEVEannouncer\Spice\Draft3.asc
V1 N001 0 5
R1 N001 N002 6.8k
D1 N002 0 1N4148
R2 N002 0 10k
R3 N002 0 10k
.model D D
.lib C:\Users\steph\AppData\Local\LTspice\lib\cmp\standard.dio
.op
.backanno
.end
