* C:\GitHub\STEVEannouncer\Spice\MIcpre.asc
V1 N007 N013 SINE(0 1m 1k) AC 1
C1 N008 N007 22µ
C2 N014 N013 22µ
R1 N003 N008 1k
R2 N003 N014 1k
R3 0 N003 20k
R4 P001 N009 100
C3 N001 P001 100µ
V2 vcc 0 5
V3 0 vee 5
XU3 N005 N002 N004 opamp Aol=100K GBW=10Meg
R6 N005 out 10k
C4 N005 N004 10µ
R7 0 N002 10k
XU1 N008 N009 N001 N014 N004 out vcc vee THAT1512
XU4 N006 N010 0 out vee vcc N011 N012 THAT1646
R5 0 N012 1k
R8 N006 0 1k
C5 N012 N011 10µ
C6 N010 N006 10µ
C7 out 0 470p
* .tran 10m
.ac oct 10 1 1gig
.lib opamp.sub
* .noise v(out) V1 oct 10 1 1gig
.lib C:\GitHub\STEVEannouncer\Spice\Models\1512_Macro_01.lib
.lib C:\GitHub\STEVEannouncer\Spice\Models\1646_Macro_02.lib
.backanno
.end
