* ----------------------------------------------------------------------
* --- 1512S08 Macromodel
* --- Rev 00, Apr 21, 2017 -- Developed by FF
* --- Rev 01, JBL 5-10-17
* --- Changed subckt name to THAT1512
* ----------------------------------------------------------------------
* ---- Pin assignment
* --- +In: Noninverting input
* --- RG1: Feedback pin for Noninverting input
* --- RG2: Feedback pin for Inverting input
* --- -In: Inverting input
* --- REF: Output CM reference
* --- OUT: Output
* --- V+ : Positive power supply
* --- V- : Negative power supply
* ----------------------------------------------------------------------
.subckt THAT1512 +In RG1 RG2 -In REF OUT V+ V-
* --------------------------------------
* ----- User adjustable model parameters
* ----- All values are typical observed in test
* ---- dc Offsets
* --- 0dB gain dc offset
* --- Range: +/- 5mV
V_Vos0dB         N_0020 REF 0.0005V
* --- High Gain dc offset referred to the input
* --- Range: +/- 250uV
V_VosHiGain         N_0062 +In 0.00009197
* --- Input bias current offset
* --- Range: +/- 1.4uA
I_Ibiasos         +In 0 DC 0uA
* ---- ac variables
* --- Gain
* --- Typical: -0.017dB
* --- Range: +/- 290 ohm (+/- 0.5dB)
R_Rgainerr1         N_0042 RG1  -10
R_Rgainerr2         N_0035 RG2  -10
* --- CMRR (Common Mode Rejection Ratio)
* --- Typical: 71.6dB at 1kHz and 0dB gain
* --- Range: 0 to 84 ohm (min 45dB at 0dB gain)
R_RCMerr         OUT N_0051  3.96
* ----- End of user adjustable model parameters
* --------------------------------------
R_R21         N_0001 0  100Meg
R_R22         N_0002 0  100Meg
E_E10         N_0002 0 N_0003 N_0004 100
D_D6         N_0004 N_0002 Dgen
E_E9         N_0001 0 N_0005 N_0006 100
D_D5         N_0001 N_0006 Dgen
R_R23         N_0007 0  100Meg
R_R20         N_0008 0  100Meg
E_E8         N_0008 0 N_0009 N_0010 100
D_D4         N_0008 N_0010 Dgen
E_E11         N_0007 0 N_0011 N_0012 100
D_D7         N_0012 N_0007 Dgen
R_R19         N_0004 N_0013  1Meg
R_R18         N_0006 N_0013  1Meg
Q_Q101         N_0015 N_0014 N_0016 QPNPS 1.05
Q_Q102         N_0018 N_0017 N_0019 QPNPS 1.05
R_R111         N_0017 N_0020  5k
C_C101         N_0021 N_0018  10p
Q_Q103         N_0015 N_0022 N_0023 QNPNS 1
Q_Q104         N_0018 N_0022 N_0024 QNPNS 1
R_R17         N_0012 N_0025  1Meg
R_R16         N_0010 N_0025  1Meg
E_E7b         N_0028 N_0005 N_0026 N_0027 1
E_E6b         N_0003 N_0028 N_0026 N_0027 1
E_E7a         N_0029 N_0009 N_0026 N_0027 1
E_E6a         N_0011 N_0029 N_0026 N_0027 1
D_D10         N_0025 N_0030 Dgen
D_D11         N_0013 N_0030 Dgen
D_D12         N_0031 N_0032 Dgen
D_D13         N_0033 N_0034 Dgen
R_Rf2         N_0028 N_0035  5k
Q_Q3         N_0033 N_0036 N_0037 QPNPS 1.05
Q_Q4         N_0031 N_0036 N_0038 QPNPS 1.05
Q_Q5         N_0036 N_0036 N_0039 QPNPS 1.05
C_C3         N_0040 N_0033  1p
R_Rc1         N_0031 N_0040  6k
C_C2         N_0034 N_0033  1.6p
C_C1         N_0032 N_0031  1.6p
R_Rz2         N_0025 N_0034 RB 200
R_Rz1         N_0013 N_0032 RB 200
G_G6         N_0025 0 N_0033 N_0041 0.00595
R_R7         0 N_0025  46.1k
R_R8         0 N_0013  46.1k
R_Rf1         N_0029 N_0042  5k
G_G7         N_0013 0 N_0031 N_0041 0.00595
R_Rb1         N_0026 N_0027 RB 26k
R_Rb101         N_0044 N_0043 RB 25573
I_I1         N_0043 N_0026 DC 1uA
R_R121         N_0045 0  100Meg
E_E119         N_0045 0 N_0046 N_0047 100
E_E118         N_0050 0 N_0048 N_0049 100
D_D106         N_0049 N_0050 Dgen
R_R122         N_0050 0  100Meg
D_D104         N_0045 N_0047 Dgen
R_R112         N_0051 N_0014  5k
E_E107b         N_0052 N_0046 N_0044 N_0043 1
E_E106b         N_0048 N_0052 N_0044 N_0043 1
R_R108         0 N_0053  16.808k
G_G112         N_0053 0 N_0018 N_0054 0.011815
R_Rz101         N_0053 N_0021 RB 1
D_D112         N_0018 N_0053 Dgen
D_D102         N_0053 N_0055 Dgen
D_D105         N_0056 N_0053 Dgen
R_R118         N_0047 N_0053  1Meg
R_R119         N_0049 N_0053  1Meg
E_E107         N_0057 0 N_0052 OUT 1
D_D115         N_0058 N_0057 Dgen
D_D114         N_0057 N_0059 Dgen
R_R123         N_0058 N_0059  15
R_Rsh2         OUT N_0052 RE 12
F_F1         N_0053 0 VF_F1 5
VF_F1        N_0058 0 0V
D_Dp5         V- +In Dgen
D_Dp7         V- RG2 Dgen
D_Dp6         V- RG1 Dgen
D_Dp8         V- -In Dgen
G_G1         N_0060 V- N_0027 V- 0.00064
G_G2         RG2 V- N_0027 V- 0.00064
G_G5         N_0033 V- N_0027 V- 0.000069615
G_G4         N_0031 V- N_0027 V- 0.000069615
V_V5         N_0041 V- 1.34V
D_D1         V- N_0013 Dgen
D_D2         V- N_0025 Dgen
G_G10         N_0028 V- N_0003 N_0004 0.01515
R_R104         V- N_0023  1k
R_R106         V- N_0022  30k
R_R105         V- N_0024  1k
V_V105         N_0054 V- 1.36V
V_V101         N_0056 V- 2.28V
G_G110         N_0052 V- N_0048 N_0049 0.01197
G_G8         N_0029 V- N_0011 N_0012 0.01515
D_Dp10         V- REF Dgen
D_Dp12         V- OUT Dgen
R_R109         N_0014 N_0028  10k
R_R110         N_0029 N_0017  10k
R_R101         N_0061 N_0016 RB 1050
R_R102         N_0061 N_0019 RB 1050
R_Rdum1         N_0060 RG1  0.001
G_G3         N_0036 V- N_0027 V- 0.00007138
R_R4         V- N_0027 Rptat 1349950
D_Dp13         V- V+ Dgen
R_R107         N_0044 V+ Rptat 220687
R_R1         N_0037 V+  1.5k
R_R2         N_0038 V+  1.5k
R_R3         N_0039 V+  13114
V_V2         V+ N_0030 1.936V
G_G11         V+ N_0028 N_0006 N_0005 0.01515
Q_Q105         V+ N_0015 N_0022 QNPNS 1
G_G113         V+ N_0061 V+ N_0044 0.00089
V_V102         V+ N_0055 0.77V
G_G111         V+ N_0052 N_0047 N_0046 0.01197
G_G9         V+ N_0029 N_0010 N_0009 0.01515
D_Dp9         REF V+ Dgen
D_Dp1         +In V+ Dgen
D_Dp3         RG2 V+ Dgen
D_Dp2         RG1 V+ Dgen
D_Dp4         -In V+ Dgen
D_Dp11         OUT V+ Dgen
Q_Q2         N_0038 -In RG2 QNPNLI 1.015
Q_Q1         N_0037 N_0062 RG1 QNPNLI 1.015
G_G12         RG1 0 N_0063 0 1
G_G13         RG2 0 N_0064 0 1
R_Rnoi11         N_0063 0  0.0026
R_Rnoi12         0 N_0063  0.0026
R_Rnoi22         0 N_0064  0.0026
R_Rnoi21         N_0064 0  0.0026
R_R114         V- V+  80830
I_I2         V+ V- DC 1310uA
.ends 1512S08
* ----------------------------------------------------------------------
* LARGE NPN TRANSISTOR
.MODEL QNPNLI NPN (        IS      = 1E-14
+BF      = 150
+NF      = 1              BR      = 119.4532856
+NR      = 1              ISE     = 6E-16        NE      = 1.3340565
+ISC     = 6.35E-14       NC      = 1.6525       VAF     = 180
+VAR     = 10.8094728     IKF     = 0.2850543    IKR     = 0.0103675
+RB      = 15             RBM     = 2.94235      IRB     = 3.5E-4
+RE      = 0.1            RC      = 12
+CJE     = 1.017E-11      VJE     = 0.7241957    MJE     = 0.49456
+FC      = 0.97           CJC     = 4.38E-12     VJC     = 0.5595858
+MJC     = 0.498675       TF      = 7.063932E-11 XTF     = 17.846692
+ITF     = 0.1724         VTF     = 1.7447209    PTF     = 20
+TR      = 2.78E-9        XTB     = 1.1          EG      = 1.16
+XTI     = 3.0423         KF      = 400E-18      QCO     = 1E-12
+RCO     = 1              VO      = 1            GAMMA   = 1E-13)
* SMALL PNP TRANSISTOR
.MODEL QPNPS PNP (         IS     = 1.271569E-16
+ BF     = 75
+ NF     = 0.997           BR     = 8.5455142
+ NR     = 1               ISE    = 1.35611E-16     NE     = 1.4504529
+ ISC    = 1.080381E-14    NC     = 1.3760886       VAF    = 125
+ VAR    = 15.4523822      IKF    = 5.34609E-3      IKR    = 3.584662E-4
+ RB     = 250             RBM    = 3.9345          IRB    = 4.5159E-6
+ RE     = 4.0345          RC     = 103.8801001     CJE    = 4.84917E-13
+ VJE    = 0.7026986       MJE    = 0.4516283       FC     = 0.96
+ CJC    = 5.252548E-13    VJC    = 0.50234         MJC    = 0.1646286
+ TF     = 2.404569E-10    XTF    = 25.7198121      ITF    = 1.285574E-3
+ VTF    = 1.7604027       QCO    = 1E-12           RCO    = 78.045
+ VO     = 0.48            GAMMA  = 1E-13           XTB    = 1.2
+ PTF	   = 20)
*
* ----------------------------------------------------------------------
* SMALL NPN TRANSISTOR
.MODEL QNPNS NPN (         IS     = 2.094763E-16
+ BF     = 150
+ NF     = 1.003           BR     = 42.7302473
+ NR     = 1               ISE    = 1.133444E-17    NE     = 1.2680345
+ ISC    = 5.128E-15       NC     = 1.3852571       VAF    = 317
+ VAR    = 13.8600678      IKF    = 4.6261E-3       IKR    = 6.633615E-4
+ RB     = 220.2415816     RBM    = 10.5739703      IRB    = 8.12759E-5
+ RE     = 3.3546          RC     = 39.64           CJE    = 2.980013E-13
+ VJE    = 0.5555926       MJE    = 0.196179        FC     = 0.98
+ CJC    = 1.87624E-13     VJC    = 0.50875         MJC    = 0.2886126
+ TF     = 1.424392E-10    XTF    = 20.3000836      ITF    = 6.266082E-3
+ VTF    = 2.5905793       QCO    = 1E-12           RCO    = 65.045
+ VO      = 0.3            GAMMA  = 1E-13           XTB    = 1.1
+ PTF	   = 20)
* ----------------------------------------------------------------------
.MODEL D1 D (
+ IS=864.10E-18
+ N=1.0793
+ RS=100
+ IKF=1.0405
+ CJO=194.00E-15
+ M=.42945
+ VJ=.79868
+ ISR=10.127E-12
+ NR=4.9950
+ BV=100
+ IBV=10
+ TT=7.5741E-9)
* ----------------------------------------------------------------------
.MODEL Dgen D (
+ IS=1E-14)
* ----------------------------------------------------------------------
.MODEL RPTAT RES (R=1 TC1=3300E-6)
* ----------------------------------------------------------------------
.MODEL RB RES (R=1 TC1=1500E-6)
* ----------------------------------------------------------------------
.MODEL RE RES (R=1 TC1=2000E-6)
* ----------------------------------------------------------------------

